US05521189
5-Methyl-2,4-bis(4-cyanophenyl)pyrimidine
A mixture of 5-methyl-2,4-bis(4-bromophenyl)pyrimidine (8.08 g, 0.02 mole) and copper(I) cyanide (4.45 g, 0.05 mole) in 35 mL dry DMF is refluxed under nitrogen for 40 hr (TLC monitored), the excess DMF is distilled under vacuum using a water aspirator. The residual mass is diluted with water and poured into 200 mL 10% NaCN solution, stirred for 2-3 hr, filtered, washed thoroughly with water, dried and subjected to soxlet extraction using acetone. The acetone is distilled and the residue dissolved into 75 mL CHCl3 and chromatographed over an aluminumoxide column, eluted with ether to 80:20 CHCl3 :ether to yield a white crystalline solid (2.8 g, 48%), mp 194°-195° C.

reactant | 5-methyl-2,4-bis(4-bromophenyl)pyrimidine | 0.02 mole, 8.08 g | CC=1C(=NC(=NC1)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C17H12Br2N2
reactant | copper(I) cyanide | 0.05 mole, 4.45 g | [Cu]C#N
reactant | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 5-Methyl-2,4-bis(4-cyanophenyl)pyrimidine | 2.8 g, 48% | CC=1C(=NC(=NC1)C1=CC=C(C=C1)C#N)C1=CC=C(C=C1)C#N | C19H12N4
